US05532235
6,7,8,9-Tetrahydro-5H-pyrido[2,3-b]azepin-5-one
A solution of 5.00 g of 6,7,8,9-tetrahydro-9-[(4-methylphenyl)sulfonyl]-5H-pyrido[2,3-b]azepin-5-one in 60 ml of 40% (v/v) sulfuric acid in acetic acid is heated at 60° C. for 11 hours. The mixture is chilled and poured into 350 ml of ice water (cooled in an ice bath) with thorough stirring. To the cold mixture is added solid NaOH until the pH is 8 while keeping the temperature below 30° C. The mixture is filtered and the solid washed with ethyl acetate. The organic layer of the filtrate is separated and the aqueous layer extracted with ethyl acetate. The organic layer and extracts are combined and treated with activated carbon. The mixture is filtered through MgSO4 and the solvent removed under vacuum to give 2.0 g of yellow crystals.

reactant | 6,7,8,9-tetrahydro-9-[(4-methylphenyl)sulfonyl]-5H-pyrido[2,3-b]azepin-5-one | 5.00 g | CC1=CC=C(C=C1)S(=O)(=O)N1C2=C(C(CCC1)=O)C=CC=N2 | C16H16N2O3S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,7,8,9-Tetrahydro-5H-pyrido[2,3-b]azepin-5-one | 2.0 g | N1=CC=CC2=C1NCCCC2=O | C9H10N2O
